US05254558
To a solution of ethyl 4-fluorobenzimidate hydrochloride (18.5 g) in ethanol (90 mL) at 0° C. was added aminoacetaldehyde diethyl acetal (14.5 mL) and the resulting solution was kept at 5° C. overnight. The solvent was evaporated, the resulting oil was dissolved in 1N sodium hydroxide (200 mL), and the solution was extracted with dichloromethane. The organic extracts were dried and evaporated to yield N-(2,2-diethoxyethyl)-4-fluorobenzamidine as an oil (21 g); MS: m/z=255(M+1).

reactant | ethyl 4-fluorobenzimidate hydrochloride | 18.5 g | Cl.FC1=CC=C(C(OCC)=N)C=C1
reactant | aminoacetaldehyde diethyl acetal | 14.5 mL | C(C)OC(CN)OCC | C6H15NO2
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | N-(2,2-diethoxyethyl)-4-fluorobenzamidine | 21 g | C(C)OC(CNC(C1=CC=C(C=C1)F)=N)OCC | C13H19FN2O2
